US07312245B2
Preparation of N-(t-butoxycarbonyl)-N′-(4-methylbenzoyl)-1-phenyl-1,2-ethylenediamine (Compound No. 504)
0.24 g of triethylamine was added to a solution of 0.22 g of di-t-butyl dicarbonate and 0.25 g of N-(4-methylbenzoyl)-2-phenyl-1,2-ethylenediamine hydrochloride in dichloromethane under ice cooling, and the mixture was stirred at 5° C. for 1 hour and at room temperature for 3 hours. The reaction mixture was rinsed with water, the organic layer was dried over magnesium sulfate anhydrous, and the residual oily material obtained under a reduced pressure was purified by column chromatography on silica gel (2:1 hexane/ethyl acetate) to obtain 0.24 g of the title compound as colorless crystals.

reactant | triethylamine | 0.24 g | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 0.22 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | N-(4-methylbenzoyl)-2-phenyl-1,2-ethylenediamine hydrochloride | 0.25 g | Cl.CC1=CC=C(C(=O)NCC(N)C2=CC=CC=C2)C=C1
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(t-butoxycarbonyl)-N′-(4-methylbenzoyl)-1-phenyl-1,2-ethylenediamine | 0.24 g | C(C)(C)(C)OC(=O)NC(CNC(C1=CC=C(C=C1)C)=O)C1=CC=CC=C1 | C21H26N2O3
